US08455483B2
2-(5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophen-2-yl)ethanol
tert-Butyldimethylsilyl chloride (6.63 g) was added portionwise to a solution of imidazole (2.99 g) and 2-(5-(2-hydroxyethyl)thiophen-2-yl)acetic acid [WO 2008096129] (3.9 g) in DMF (50 mL) over 20 minutes. The resulting solution was stirred for 1 h. THF (50 mL) was then added and the reaction cooled in an ice bath. A solution of potassium carbonate (4.05 g) in water (50 mL) was then added and the mixture stirred for 20 min. The reaction was partitioned between ethyl acetate and brine. The organic layer was separated and washed twice with brine, dried over sodium sulphate, filtered and the solvent evaporated in vacuo. The residue was dissolved in THF (80 mL) and borane tetrahydrofuran complex (1M solution in THF, 62.8 mL) was added dropwise. The resulting solution was stirred for 2 h and quenched by dropwise addition of methanol (30 mL). The solvents were then evaporated in vacuo. Purification was by silica gel chromatography, eluting with 83:17 isohexane:ethyl acetate to give the subtitled compound as a yellow liquid. Yield 4.6 g.

reactant | tert-Butyldimethylsilyl chloride | 6.63 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.99 g | N1C=NC=C1 | C3H4N2
reactant | 2-(5-(2-hydroxyethyl)thiophen-2-yl)acetic acid | 3.9 g | OCCC1=CC=C(S1)CC(=O)O | C8H10O3S
reactant | potassium carbonate | 4.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophen-2-yl)ethanol | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(S1)CCO | C14H26O2SSi
